US09029536B2
B) [4-(Benzyloxy)phenyl](3-fluoropyridin-2-yl)methanone
To a solution of 3-fluoro-N-methoxy-N-methylpyridine-2-carboxamide (4.8 g) in THF (100 mL) was added dropwise [4-(benzyloxy)phenyl]magnesium bromide (1 M solution in THF, 27.4 mL) at 0° C. After stirring at 0° C. for 2 h, the mixture was warmed to room temperature and stirred at room temperature overnight. The mixture was quenched with water and extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (3.0 g).

reactant | 3-fluoro-N-methoxy-N-methylpyridine-2-carboxamide | 4.8 g | FC=1C(=NC=CC1)C(=O)N(C)OC | C8H9FN2O2
reactant | [4-(benzyloxy)phenyl]magnesium bromide | 1 M, 27.4 mL | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[Mg]Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [4-(Benzyloxy)phenyl](3-fluoropyridin-2-yl)methanone | 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NC=CC=C1F | C19H14FNO2
